US08871753B2
Step A: tert-Butyl (3-{[3-(3-nitrophenyl)propanoyl]amino}phenyl)carbamate
A solution of 3-(3-nitrophenyl)propanoic acid (0.43 g, 2.2 mmol) and tert-butyl (3-aminophenyl)carbamate (0.50 g, 2.4 mmol) in acetonitrile (16 mL) was treated with O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.2 g, 3.3 mmol) followed by N,N-diisopropylethylamine (0.57 mL, 3.3 mmol) and stirred for 16 h. The reaction mixture was concentrated and diluted with brine (80 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product as a crude residue. This material was purified by flash column chromatography to give the desired product (0.87 g, 98%) as an off-white foam. LCMS for C16H16N3O5 ([M-(t-Bu)+H]+H)+: m/z=330.0.

reactant | 3-(3-nitrophenyl)propanoic acid | 2.2 mmol, 0.43 g | [N+](=O)([O-])C=1C=C(C=CC1)CCC(=O)O | C9H9NO4
reactant | tert-butyl (3-aminophenyl)carbamate | 2.4 mmol, 0.50 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.3 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 3.3 mmol, 0.57 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | tert-Butyl (3-{[3-(3-nitrophenyl)propanoyl]amino}phenyl)carbamate | [N+](=O)([O-])C=1C=C(C=CC1)CCC(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C20H23N3O5
